US05292887
a) [2-(1-benzyl-1H-imidazol-4-yl)-2,3-dihydro-1H-inden-2-yl]-methanol
0,0237 g of tetrabutylammonium bromide, 1 ml of 48% NaOH, 5 ml of toluene, 0,58 g of [2,3-dihydro-2-(1H-imidazol-4-yl)-1H-inden-2-yl]methanol hydrochloride prepared according to example 9a and 0,30 g of benzyl chloride were combined. The mixture was stirred for 2 h at 60°-70° C. Then the mixture was cooled and water was added, toluene was evaporated and the aqueous solution was made acidic while cooling simultaneously. The acid solutation was washed with ether and the product separated as an oily layer. The product was extracted in methylene chloride as hydrochloride.

reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | [2,3-dihydro-2-(1H-imidazol-4-yl)-1H-inden-2-yl]methanol hydrochloride | 0,58 g | Cl.N1C=NC(=C1)C1(CC2=CC=CC=C2C1)CO
reactant | benzyl chloride | 0,30 g | C(C1=CC=CC=C1)Cl | C7H7Cl
catalyst | tetrabutylammonium bromide | 0,0237 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | [2-(1-benzyl-1H-imidazol-4-yl)-2,3-dihydro-1H-inden-2-yl]-methanol | C(C1=CC=CC=C1)N1C=NC(=C1)C1(CC2=CC=CC=C2C1)CO | C20H20N2O
